US06255333B1
5-Chloro-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)4-ethynylpyrazole
To a stirred solution of 5-chloro-3-cyano-)-4-(2,2-dibromoethenyl)-1-(2,6-dichloro-4-trifluoromethylphenyl)pyrazole (2.12 g) in dimethylsulphoxide (8 ml) at 15° C. was added dropwise a solution of 1,8-diazabicyclo[5.4.0]undec-7-ene (1.21 ml) in dimethylsulphoxide (7.9 ml). After two hours the reaction mixture was neutralism with 0.5N hydrochloric acid and partitioned between water and dichloromethane. The aqueous layer was thrice extracted with dichloromethane. The combined organic layers were washed with brine, dried (Na2SO4) and evaporated. The aqueous layer was thrice extracted with dichloromethane. The combined organic layers were washed with brine, dried (Na2SO4) and evaporated. The residue was purified by column chromatography on silica gel eluted with hexane dichloromethane (1:1). Combination and evaporation of suitable fractions followed by recrystallisation from hexane gave the title compound as a light pink solid, m.p. 109.1-109.9° C.

reactant | 4-(2,2-dibromoethenyl)-1-(2,6-dichloro-4-trifluoromethylphenyl)pyrazole | 2.12 g | BrC(=CC=1C=NN(C1)C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)Br | C12H5Br2Cl2F3N2
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 1.21 ml | N12CCCCCC2=NCCC1 | C9H16N2
reactant | hydrochloric acid | 0.5N | Cl | ClH
solvent | dimethylsulphoxide | 8 ml | CS(=O)C | C2H6OS
solvent | dimethylsulphoxide | 7.9 ml | CS(=O)C | C2H6OS
product | 5-Chloro-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)4-ethynylpyrazole | ClC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C#N)C#C | C13H3Cl3F3N3
